US07250518B2
N-[4-(Cyano-dimethyl-methyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide of Formula (6.0.47):
To N-[4-(1-Carbamoyl-1-methyl-ethyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide (3.00 g) in a 50 mL flask was added phosphorous oxychloride (3.29 mL). The solution was heated for 1 h at 90° C. The solution was then cooled in an ice bath, poured over satd. aq. sodium carbonate (50 mL), then extracted with ethyl acetate (4×100 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo, yielding the title compound (2.36 g).

reactant | N-[4-(1-Carbamoyl-1-methyl-ethyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide | 3.00 g | C(N)(=O)C(C)(C)C1=CC(=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1)F | C23H21F2N3O3
reactant | phosphorous oxychloride | 3.29 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-[4-(Cyano-dimethyl-methyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide | 2.36 g | C(#N)C(C1=CC(=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1)F)(C)C | C23H19F2N3O2
